US07626021B2
In a microwave vial O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexa-fluorophosphate (34.8 mg, 0.9 mmol) was added to a solution of 5-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-N,N-dimethyl-isophthalamic acid (50 mg, 0.09 mmol), ethyl amine (69 μL, 0.14 mmol), and di-iso-propyl ethyl amine (47.8 μL, 0.27 mmol) in tetrahydrofuran (1 mL). The vial was sealed and the solution irradiated to 100° C. for 10 min in a microwave reactor. The solvent was then removed on under reduced pressure. Trifluoroacetic acid (1 mL) was then added to the residue and the mixture stirred at room temperature for 16 hours. The solvent was then removed under reduced pressure and the residue purified by preparative high pressure liquid chromatography to give N-ethyl-5-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-N′,N′-dimethyl-isophthalamide (5.30 mg, 13% yield). 1H-NMR (500 MHz, Dimethyl sulfoxide-d6) δ 1.15 (t, J=14 Hz, 3H) 2.97 (s, 3H); 3.03 (s, 3H)); 3.29 (dq, J=5.5 Hz, J=7 Hz, 2H); 3.84 (s, 3H); 7.11 (t, J=7.5 Hz 1H); 7.23 (d, J=8 Hz 1H) 7.48 (t, J=7.5 Hz, 1H); 7.67 (d, J=8 Hz 1H); 7.86 (s, 1H); 7.94 (s, 1H); 8.25 (s, 1H); 8.45 (s, 1H); 8.69 (t, J=5.5 Hz, 1H); 8.94 (s, 1H); 13.88 (s, br, 1H) MS: m/z 444.0 (M+H+).

reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexa-fluorophosphate | 0.9 mmol, 34.8 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 5-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-N,N-dimethyl-isophthalamic acid | 0.09 mmol, 50 mg | COC1=C(C=CC=C1)C1=NN(C2=NC=C(C=C21)C=2C=C(C=C(C(=O)O)C2)C(=O)N(C)C)COCC[Si](C)(C)C | C29H34N4O5Si
reactant | ethyl amine | 0.14 mmol, 69 μL | C(C)N | C2H7N
reactant | di-iso-propyl ethyl amine | 0.27 mmol, 47.8 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | N-ethyl-5-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-N′,N′-dimethyl-isophthalamide | 5.30 mg, 13% yield | C(C)NC(C1=CC(C(=O)N(C)C)=CC(=C1)C=1C=C2C(=NC1)NN=C2C2=C(C=CC=C2)OC)=O | C25H25N5O3
